US09278950B2
Step 2. tert-Butyl [(3S)-1-(3-aminopyridin-4-yl)piperidin-3-yl]carbamate
To a solution of tert-butyl [(3S)-1-(3-nitropyridin-4-yl)piperidin-3-yl]carbamate (2.69 g, 8.34 mmol) in EtOH (30.0 mL), iron powder (2.335 g, 41.81 mmol) was added, followed by AcOH (7.04 g, 117 mmol) and water (7.00 mL, 388 mmol). The reaction mixture was stirred at room temperature for 3 h then concentrated under reduced pressure. EtOAc (100 mL) was added to the residue and the resulting mixture was filtered through a pad of diatomaceous earth. The diatomaceous earth pad was washed with 10 wt % aq. K3PO4 (150 mL) and EtOAc (100 mL). The organic layer was separated and was then washed with brine (150 mL), dried over Na2SO4 and concentrated under reduced pressure. The resulting residue was purified by flash chromatography on silica gel (0-30% MeOH in DCM) to give the sub-title compound as an off-white solid (2.13 g, 87%). LCMS calc. for C15H25N4O2 (M+H)+: m/z=293.2. found 293.2.

reactant | tert-butyl [(3S)-1-(3-nitropyridin-4-yl)piperidin-3-yl]carbamate | 8.34 mmol, 2.69 g | [N+](=O)([O-])C=1C=NC=CC1N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C15H22N4O4
reactant | AcOH | 117 mmol, 7.04 g | CC(=O)O | C2H4O2
reactant | water | 388 mmol, 7.00 mL | O | H2O
solvent | EtOH | 30.0 mL | CCO | C2H6O
catalyst | iron | 41.81 mmol, 2.335 g | [Fe] | Fe
product | tert-Butyl [(3S)-1-(3-aminopyridin-4-yl)piperidin-3-yl]carbamate | 2.13 g, 87% | NC=1C=NC=CC1N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C15H24N4O2
